US03940394
[4-Chloro-6-(p-chloro-α-methylbenzylamino)-2-pyrimidinylthio] acetic acid
A stirred mixture of 2.7 g of (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester, 1.6 g of p-chloro-α-methylbenzylamine and 1.1 g of sodium carbonate in 120 ml. ethanol was heated under reflux for 2 hr. The reaction mixture was filtered and the filtrate taken to dryness in a rotary evaporator in vacuo. The residual oil was treated with 100 ml. of 30% sodium hydroxide solution containing a few ml. of ethanol. After a few minutes the clear solution was acidified with concentrated hydrochloric acid and the mixture thus formed was extracted with ether (3 × 50 ml.). The ether solution was dried over magnesium sulfate, filtered and the filtrate evaporated to dryness. The residue was dissolved in 50 ml. of benzene and petroleum ether was added until the solution became cloudy. On cooling in ice a precipitate was deposited. Recrystallization of this material from 50% aqueous ethanol afforded the product, mp. 155°-160°C.

reactant | (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester | 2.7 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)Cl)=O | C8H8Cl2N2O2S
reactant | p-chloro-α-methylbenzylamine | 1.6 g | ClC1=CC=C(C(C)N)C=C1 | C8H10ClN
reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [4-Chloro-6-(p-chloro-α-methylbenzylamino)-2-pyrimidinylthio] acetic acid | ClC1=NC(=NC(=C1)NC(C1=CC=C(C=C1)Cl)C)SCC(=O)O | C14H13Cl2N3O2S
